US07642220B2
23. Preparation of 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-(2,2,2-trifluoroethoxy)pyrimidine-4-carboxylic acid methyl ester (Compound 20)
6-Amino-5-bromo-2-(4-chloro-2-fluoro-3-methoxyphenyl)-pyrimidine-4-carboxylic acid (240 mg, 0.64 mmol), 2,2,2-trifluoroethanol (1.4 mL, 1.9 g, 1.9 mmol), cesium carbonate (1.0 g, 3.2 mmol) and cuprous bromide (92 mg, 0.64 mmol) were combined in 7 mL dry DMF and heated to 80° C. for 3 h. After cooling, the mixture was diluted with water and extracted twice with ethyl acetate. The combined extracts were washed twice with water, dried and evaporated. The residue was purified by flash chromatography on silica gel (5 to 20% ethyl acetate in hexane) and then repurified by preparative HPLC (55% acetonitrile buffered with 0.1% v/v acetic acid). The purified acid was taken up in 5 mL methanol, treated with a 2 M solution of (trimethylsilyl)diazomethane in hexanes (1 mL) and stirred for 30 m at 25° C. The excess reagent was destroyed by addition of 0.5 mL acetic acid and the volatiles were removed by evaporation. The residue was taken up in ethyl acetate, washed with saturated sodium bicarbonate, washed with brine, dried and evaporated. The residue was taken up in a small amount of dichloromethane and the product was precipitated as a solid by slow addition of hexane to give 32 mg of the title compound as a white solid: mp 123-125° C.: 1H NMR (CDCl3) δ 7.61 (dd, 1H), 7.20 (dd, 1H), 5.51 (br s, 2H), 4.51 (q, 1H), 4.01 (s, 3H), 3.99 (s, 3H).

reactant | 6-Amino-5-bromo-2-(4-chloro-2-fluoro-3-methoxyphenyl)-pyrimidine-4-carboxylic acid | 0.64 mmol, 240 mg | NC1=C(C(=NC(=N1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)O)Br | C12H8BrClFN3O3
reactant | 2,2,2-trifluoroethanol | 1.9 mmol, 1.4 mL, 1.9 g | FC(CO)(F)F | C2H3F3O
reactant | cesium carbonate | 3.2 mmol, 1.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-(2,2,2-trifluoroethoxy)pyrimidine-4-carboxylic acid methyl ester | 32 mg | COC(=O)C1=NC(=NC(=C1OCC(F)(F)F)N)C1=C(C(=C(C=C1)Cl)OC)F | C15H12ClF4N3O4
